US05081123
A solution of 0.5 g (1.36 mmol) 4-bromo-1-ethoxalylamino-2-nitronaphthalene in 30 ml tetrahydrofuran was added 10 ml dimethylformamide and 0.7 ml 25% aqueous ammonia. The mixture was hydrogenated at atm. pressure by using 50 mg 5% Pd-C as a catalyst. The precipitated product was filtered off and washed with tetrahydrofuran. The filter cake was washed several times with 5% aqueous potassium hydroxide. Acidification of the filtrate with 4N hydrochloric acid and recrystallization (dimethylformamide-water) of the precipitated product gave 0.2 g (65%) 4-hydroxy-benzo[f]quinoxaline-2,3(1H,4H)-dione. M p. 270° C. decomp. 1H-NMR (DMSO-d6 : 12.1 (1H, broad s), 8.6 (1H, m), 7.7 (5H, m). MS (m/e): 228 (M+, 90%).

reactant | 4-bromo-1-ethoxalylamino-2-nitronaphthalene | 1.36 mmol, 0.5 g | BrC1=CC(=C(C2=CC=CC=C12)NC(=O)C(=O)OCC)[N+](=O)[O-] | C14H11BrN2O5
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ammonia | 0.7 ml | N | H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | 4-hydroxy-benzo[f]quinoxaline-2,3(1H,4H)-dione | 0.2 g, 65% | ON1C(C(NC=2C3=C(C=CC12)C=CC=C3)=O)=O | C12H8N2O3
